US07151105B2
Step 2: 2-Methoxy-5-vinyl-pyridine
To a solution of 1-(6-methoxy-pyridin-3-yl)-ethanol (14.3 g, 93.5 mmol) in anhydrous THF was added triethylamine (32.3 mL), followed by MsCl (8.6 mL, 112 mmol). The resulting mixture was stirred at room temperature for 15 hours before it was filtered through a pad of celite. The filtrate was concentrated in vacuo and the residue was purified by flash column chromatography to afford the desired product (4.7 g, 37% yield). 1H NMR (300 MHz, CDCl3): δ 3.94 (s, 3 H), 5.20–5.23 (m, 1H), 5.61–5.67 (m, 1 H), 6.60–6.78 (m, 2 H), 7.67–7.72 (m, 1 H), 8.12 (s, 1 H).

reactant | 1-(6-methoxy-pyridin-3-yl)-ethanol | 93.5 mmol, 14.3 g | COC1=CC=C(C=N1)C(C)O | C8H11NO2
reactant | triethylamine | 32.3 mL | C(C)N(CC)CC | C6H15N
reactant | MsCl | 112 mmol, 8.6 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | THF | C1CCOC1 | C4H8O
product | 2-Methoxy-5-vinyl-pyridine | 4.7 g, 37% yield | COC1=NC=C(C=C1)C=C | C8H9NO
